US07732477B2
Methyl5,7-difluoro-1-benzothiophene-2-carboxylate
Using 3.94 g (24.6 mmol) of 2,3,5-trifluorobenzaldehyde, 1.48 g (36.9 mmol) of sodium hydride (60% pure) and 2.88 g (27.1 mmol) of methyl mercaptoacetate, 3.58 g (56% of theory) of the title compound are obtained in a purity of 89%. Recrystallization from methanol gives the product in a purity of 97%.

reactant | 2,3,5-trifluorobenzaldehyde | 24.6 mmol, 3.94 g | FC1=C(C=O)C=C(C=C1F)F | C7H3F3O
reactant | sodium hydride | 36.9 mmol, 1.48 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 27.1 mmol, 2.88 g | SCC(=O)OC | C3H6O2S
product | Methyl5,7-difluoro-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=C(C=C2F)F | C10H6F2O2S
